US08038737B2
(b) Preparation of N-(geranyloxybutyl)imidazole
Sodium hydride (1.1 g 60% dispersion in oil, 0.66 g, 27.5 mmol) was weighed out in a 100 mL round bottom flask. The sodium hydride was washed with hexane (3×5 mL) to remove the mineral oils. DMF (anhydrous, 20 mL) was added, followed by geranyloxybutyl bromide (1.51 g, 5.47 mmol). The reaction mixture was stirred at room temperature under N2 for a couple of minutes. Imidazole (1.84 g, 103 mmol, 27.1 equiv) was added slowly in small portions while cooling in an ice bath. The addition of imidazole was exothermic and the reaction mixture bubbled vigorously becoming initially a milky off-white and then clear brown in colour. This was left stirring at room temperature overnight. The reaction mixture was diluted with chloroform (50 mL) and then it was washed with brine (3×50 mL), and dried (Na2SO4). The solvent was removed under reduced pressure followed by high vacuum to give the product as a brown oil (1.37 g, 90%).

reactant | Sodium hydride | 27.5 mmol, 1.1 g | [H-].[Na+]
reactant | geranyloxybutyl bromide | 5.47 mmol, 1.51 g | C(\C=C(/C)\CCC=C(C)C)OCCCCBr | C14H25BrO
reactant | Imidazole | 103 mmol, 1.84 g, 27.1 equiv | N1C=NC=C1 | C3H4N2
product | N-(geranyloxybutyl)imidazole | 1.37 g, 90% | C(\C=C(/C)\CCC=C(C)C)OCCCCN1C=NC=C1 | C17H28N2O
